US07674789B2
31b) 3-(8-(2,6-difluorophenyl)-2-{[2-(methylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-N-(4-fluorophenyl)-4-methylbenzamide
To a solution of 1,1-dimethylethyl(2-{[8-(2,6-difluorophenyl)-4-(5-{[(4-fluorophenyl)amino]carbonyl}-2-methylphenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl]amino}ethyl)methylcarbamate (20 mg, 0.030 mmol) in DCM (5 mL) was added TFA (0.06 mL). The reaction mixture was stirred at room temperature overnight, quenched with triethylamine (0.2 mL) at −78° C. The residue was mixed with H2O (5.0 mL). The organic layer was separated and the aqueous layer was extracted with DCM (3×15 mL). The combined organic phases were washed with saturated aq. NaCl, dried over Na2SO4, filtered, and concentrated. Purification via a CombiFlash system (90% CH2Cl2/7% MeOH/3% NH4OH) then afforded the title compound (11 mg, 65%). LC-MS (ES) m/z 562 (M+H)+; 1H-NMR(MeOD) δ 2.27 (s, 3H), 2.34 (s, 3H), 2.57 (m, 2H), 3.26 (m, 2H), 4.11 (s, 2H), 7.15 (m, 4H), 7.52 (m, 2H), 7.71 (m, 2H), 7.82 (s, 1H), 7.97 (d, 1H).

reactant | 1,1-dimethylethyl(2-{[8-(2,6-difluorophenyl)-4-(5-{[(4-fluorophenyl)amino]carbonyl}-2-methylphenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl]amino}ethyl)methylcarbamate | 0.030 mmol, 20 mg | CC(C)(C)CN(C([O-])=O)CCNC=1N=C(C2=C(N(C(NC2)=O)C2=C(C=CC=C2F)F)N1)C1=C(C=CC(=C1)C(=O)NC1=CC=C(C=C1)F)C
reactant | TFA | 0.06 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(8-(2,6-difluorophenyl)-2-{[2-(methylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-N-(4-fluorophenyl)-4-methylbenzamide | 11 mg, 65% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=CC2C)NCCNC)=O | C29H26F3N7O2
